US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-[3-(2-pyridinyloxy)cycloheptyl]-1-piperazinecarboxamide
As described for example 138, 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide, NaH, and 2-fluoropyridine are reacted to give the product after flash chromatography with CH2Cl2-MeOH. LC-MS: 480 (M++1). 1H NMR (CDCl3) δ 8.75 (d, 1H), 8.05 (s, 1H), 8.0 (m, 2H), 7.60 (m, 1H), 7.45 (d, 1H), 6.85 (m, 2H), 6.75 (d, 1H), 6.05 (d, 1H), 5.20 (m, 1H), 4.10 (m, 1H), 3.75 (m, 4H), 3.25 (m, 4H), 2.28 (m, 1H), 2.10 (m, 3H), 1.85 (m, 2H), 1.70 (m, 1H), 1.40–1.60 (m, 3H).

reactant | 4-(7-chloro-4-quinolinyl)-N-(3-hydroxycycloheptyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)O | C21H27ClN4O2
reactant | NaH | [H-].[Na+]
reactant | 2-fluoropyridine | FC1=NC=CC=C1 | C5H4FN
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(7-Chloro-4-quinolinyl)-N-[3-(2-pyridinyloxy)cycloheptyl]-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CC(CCCC1)OC1=NC=CC=C1 | C26H30ClN5O2
